US09056859B2
A −78° C. solution of diisopropylamine (13.26 ml, 93 mmol)) in THF (155 ml) was treated with nBuLi (1.6M in Hexanes; 58.1 ml, 93 mmol) over a period of 15 minutes using a syringe pump. In a separate flask, a solution of 2-methyl-4-bromo benzoic acid (10 g, 46.5 mmol) and HMPA (8.33 ml, 46.5 mmol) in THF (155 ml) was cooled to −78° C. Methyl Lithium (29.1 ml, 46.5 mmol) was added slowly via syringe to the cooled solution in order to make the lithio carboxylate. The resulting solution was stirred for 10 minutes and then transferred via cannula to the LDA solution at −78° C. The resulting bright red solution was stirred at −78° C. for an additional 1 hour before being quenched with anhydrous acetaldehyde (7.88 ml, 140 mmol) (color changed from red to orange to clear yellow) and the reaction was then taken out of the dry ice acetone bath and allowed to stir for an additional 1 hour. The flask containing the reaction mixture was then resubmerged in the dry ice acetone bath before it was quenched with 4M HCl in Dioxane (50 mL) followed by 25 mL of MeOH. The reaction was stirred at room temp for an additional 1 hour. The crude reaction was partitioned b/w 200 mL EtOAc and 200 mL water. The organic layer was washed with waster, brine, dried with mag. sulfate, filtered and concentrated. Purification via MPLC (30-70% DCM/Hexanes) afforded 6-bromo-3-methyl-3,4-dihydro-1H-isochromen-1-one.

reactant | diisopropylamine | 93 mmol, 13.26 ml | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 93 mmol, 1.6M, 58.1 ml | [Li]CCCC
reactant | 2-methyl-4-bromo benzoic acid | 46.5 mmol, 10 g | CC1=C(C(=O)O)C=CC(=C1)Br | C8H7BrO2
reactant | HMPA | 46.5 mmol, 8.33 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | Methyl Lithium | 46.5 mmol, 29.1 ml | C[Li]
reactant | lithio carboxylate | [Li]C(=O)[O-]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | acetaldehyde | 140 mmol, 7.88 ml | C(C)=O | C2H4O
solvent | THF | 155 ml | C1CCOC1 | C4H8O
solvent | THF | 155 ml | C1CCOC1 | C4H8O
product | 6-bromo-3-methyl-3,4-dihydro-1H-isochromen-1-one | BrC=1C=C2CC(OC(C2=CC1)=O)C | C10H9BrO2
